US05609791
Into a three-necked flask equipped with a dropping funnel, a three-way cock and a thermometer was placed 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide (12.3 g, 27 mmols), followed by adding tetrahydrofuran (100 ml), suspending, and stirring under ice cooling till the liquid temperature reached 10° C. The reaction mixture was added potassium t-butoxide (3.0 g, 27 mmols), followed by elevating the temperature up to room temperature under ice cooling for one hour, stirring for one hour, and dropwise adding a tetrahydrofuran (50 ml) solution of (4-(3,4-difluorophenyl)cyclohexylcyclohexanone (7.3 g, 25 mmols) over 30 minutes from the dropping funnel. Further, the resulting reaction mixture was stirred for 5 hours after completion of the dropwise addition, followed by adding ether (100 ml), allowing to stand for one hour, filtering off deposited insoluble substance, concentrating the filtrate under reduced pressure and isolating and purifying the resulting pale brown oil by means of silica gel column chromatography, to obtain 1-(2-(1,3-dioxan-2-yl)ethylidene)-4-(4-(3,4-difluorophenyl)cyclohexyl)cyclohexane.

reactant | 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide | 27 mmols, 12.3 g | [Br-].O1C(OCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | potassium t-butoxide | 27 mmols, 3.0 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 4-(3,4-difluorophenyl)cyclohexylcyclohexanone | 25 mmols, 7.3 g | FC=1C=C(C=CC1F)C1CCC(CC1)C1C(CCCC1)=O | C18H22F2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(2-(1,3-dioxan-2-yl)ethylidene)-4-(4-(3,4-difluorophenyl)cyclohexyl)cyclohexane | O1C(OCCC1)CC=C1CCC(CC1)C1CCC(CC1)C1=CC(=C(C=C1)F)F | C24H32F2O2
